data/oMe_Silver.jsonl
{"reaction_id": "NR-048_1-c1ccccc1_2-CC","name": "Corey-Nicolaou Macrolactonization","level": "medium","reactants_smiles": ["c1ccccc1C(=O)O","CCO"],"products_smiles": ["c1ccccc1C(=O)O(CC)"],"conditions": "P(c1ccccc1)(c1ccccc1)c1ccccc1, c1cnccc1SSc1cncccc1","mechnism_text_description": "The Corey-Nicolaou macrolactonization involves the activation of a carboxylic acid ([*:1]-COOH) using triphenylphosphine (Ph3P) and 2,2'-dipyridyl disulfide (PySSPy), followed by esterification with an alcohol ([*:2]-OH).\nStep 1: Triphenylphosphine attacks 2,2'-dipyridyl disulfide, forming an activated phosphonium salt (Ph3P+-S-Py) and a thiopyridylate anion (PyS-).\nStep 2: The carboxylic acid reacts with the phosphonium salt (Ph3P+-S-Py), often facilitated by PyS- acting as a base, to form an S-pyridyl thioester ([*:1]-C(=O)-S-Py) and triphenylphosphine oxide or Ph3P depending on precise pathway depiction.\nStep 3: The alcohol ([*:2]-OH) performs a nucleophilic attack on the carbonyl carbon of the S-pyridyl thioester. The nitrogen of the pyridyl group assists by deprotonating the attacking alcohol, leading to a zwitterionic tetrahedral intermediate where the pyridyl nitrogen is protonated.\nStep 4: The tetrahedral intermediate collapses, ejecting 2-pyridinethiol (PySH, which can tautomerize to 2-thiopyridone) as a leaving group, to yield the final ester product ([*:1]-C(=O)-O[*:2]).","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Sc1ncccc1","step_weight": 0,"rationale": "Triphenylphosphine attacks the electrophilic disulfide sulfur due to its strong nucleophilicity, forming a reactive phosphonium–sulfur species and generating a good thiopyridyl leaving group."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccccc1C(=O)O[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "The carboxylate, deprotonated by PyS−, attacks the phosphonium–sulfur complex; the electron-withdrawing pyridyl group stabilizes the thioester intermediate, increasing carbonyl electrophilicity."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C([O-])(O(CC))O[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "The alcohol nucleophile attacks the activated thioester carbonyl, favored by the strong electron-withdrawing effect of the pyridyl–sulfur, while pyridyl nitrogen assists by deprotonating the alcohol."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccccc1C(=O)O(CC)","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels 2-pyridinethiol, a stabilized leaving group due to resonance in the pyridyl ring, yielding the ester product."}],"description": "The Corey–Nicolaou macrolactonization activates the carboxylic acid via a phosphonium–thiopyridyl intermediate, enhancing electrophilicity. The alcohol then attacks the activated carbonyl, and elimination of a good leaving group yields the ester under mild, selective conditions."}
